* Z:\Documents\BCH\hrm_test\filter_model.asc
XU1 N006 N001 V+ V- N002 LT1012
XU3 N008 OUT V+ V- OUT LT1012
C1 N006 N005 4.7µF
R1 N006 0 47k
V1 +V 0 9
V2 -V 0 -9
C2 N002 N001 47nF
R2 N002 N001 1000000
R3 0 N001 10k
R§Pot. P001 N002 5000
V3 N005 0 SINE(0 0 0)
XU2 N007 N003 V+ V- N004 LT1012
C3 N007 P001 4.7µF
R4 N007 0 47k
C4 N004 N003 47nF
R5 N004 N003 1000000
R6 0 N003 10k
R§Pot1 N008 N004 5000
* IN
.tran 1
.lib LTC.lib
.backanno
.end
